US07629473B2
Synthesis of 2-[2-(1H-indol-3-ylsulfanyl)-phenyl]-N,N-dimethyl-acetamide (Method 12.)
N,N′-Dicyclohexylcarbodiimide (875 mg, 4.2 mmol) is added to [2-(1H-Indol-3-ylsulfanyl)-phenyl]-acetic acid (600 mg, 2.1 mmol) in 3 mL dry DMF and 7 mL acetonitril and stirred for 10 minutes at room temperature. 5.3 mL dimethyl amine (2M in THF, 10.6 mmol) is added and the reaction mixture is stirred 16 hours at room temperature. The reaction mixture is concentrated in vacuo. The residue is extracted with ethyl acetate (3 times). The combined orgnic phases are washed with brine, dried with MgSO4 and concentrated in vacuo. Purification by flash chromatography on silica gel (ethyl acetate/heptane) gives 116 mg (18%) of the title compound.

reactant | N,N′-Dicyclohexylcarbodiimide | 4.2 mmol, 875 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | [2-(1H-Indol-3-ylsulfanyl)-phenyl]-acetic acid | 2.1 mmol, 600 mg | N1C=C(C2=CC=CC=C12)SC1=C(C=CC=C1)CC(=O)O | C16H13NO2S
reactant | dimethyl amine | 10.6 mmol, 2M, 5.3 mL | CNC | C2H7N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | acetonitril | 7 mL | C(C)#N | C2H3N
product | 2-[2-(1H-indol-3-ylsulfanyl)-phenyl]-N,N-dimethyl-acetamide | 116 mg, 18% | N1C=C(C2=CC=CC=C12)SC1=C(C=CC=C1)CC(=O)N(C)C | C18H18N2OS
